US07981903B2
To a solution of 6-(methyloxy)-1H-indole (5.0 g, 34 mmols) in acetic acid (150 mL) was added NaBH3CN (5.12 g, 81.6 mmol) in several small portions. After stirring overnight at rt, the solvent was removed, the residue redissolved in ethyl acetate (300 mL), washed with saturated NaHCO3 (600 mL), filtered through a cotton plug and concentrated under reduced pressure to provide the crude indoline. ESIMS (M+H)+=150. The residue was then dissolved in glacial acetic acid (150 mL) and acetic anhydride (3.45 g, 33.86 mmol) was added. After stirring at rt for two hrs, the solvent was removed, residue resuspended in ethyl acetate (200 mL), washed with saturated NaHCO3 (600 mL). The aqueous layer was extracted with ethyl acetate (200 mL). The organic layers were combined, filtered through a cotton plug, and concentrated under reduced pressure to provide 1-acetyl-6-(methyloxy)-2,3-dihydro-1H-indole which was used without any further purification. ESIMS (M+H)+=192.

reactant | 6-(methyloxy)-1H-indole | 34 mmols, 5.0 g | COC1=CC=C2C=CNC2=C1 | C9H9NO
reactant | NaBH3CN | 81.6 mmol, 5.12 g | [BH3-]C#N.[Na+]
reactant | acetic anhydride | 33.86 mmol, 3.45 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | 1-acetyl-6-(methyloxy)-2,3-dihydro-1H-indole | C(C)(=O)N1CCC2=CC=C(C=C12)OC | C11H13NO2
